US04719049
46A. (2-Anthracenyl)methanol
To a 2 L 3-neck flask fitted with condenser, thermometer and overhead stirrer was added 2-(hydroxymethyl)anthraquinone (Aldrich, 20 g, 0.084 mol), Zn dust (Mallinckrodt, 50 g, 0.765 mol), CuSO4.5H2O (Mallinckrodt, 0.5 g), and 28% NH4OH (Mallinckrodt, 600 mL). The temperature was increased to 80°, and the initial dark-red color faded (about 3 h). After refluxing for an additional 30 min, the mixture was filtered. The filtrate was treated with conc. HCl until acidic, and the resulting precipitate collected. The zinc solid was extracted with EtOAc until the washings were clear, and the EtOAc removed to give an oil. The oil and the precipitate were added to a mixture of conc. HCl (12 ml) in i-PrOH (1200 mL). This solution was concentrated by rotary evaporation to near dryness and CH3OH (100 mL) was added to give after filtration and drying 13.48 g (77%) of (2-anthracenyl)methanol mp 218°-221° (lit mp 223°-224°, P. Arjunan and K. D. Berlin, Org. Prep. and Procedure., 13(5), 368 (1981)).

reactant | 2-(hydroxymethyl)anthraquinone | 0.084 mol, 20 g | OCC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H10O3
reactant | NH4OH | 600 mL | [NH4+].[OH-]
reactant | HCl | 12 ml | Cl | ClH
solvent | i-PrOH | 1200 mL | CC(C)O | C3H8O
catalyst | Zn | 0.765 mol, 50 g | [Zn] | Zn
product | (2-Anthracenyl)methanol | C1=C(C=CC2=CC3=CC=CC=C3C=C12)CO | C15H12O
